US04810708
A mixture of 2-chloro-3-pyridinecarboxylic acid (78.75 g, 0.500 mol), 3-chloroaniline (127.6 g, 1.00 mol), paratoluenesulfonic acid.H2O (8.5 g, 45 mmol), and H2O (500 mL) was refluxed 4 hrs. The solids dissolved, and after 1 hr, the solution gave a precipitate. The cooled mixture was filtered, and the collected yellow solid was washed with cold H2 0 and was dried (60° ) to give 2-[(3-chlorophenyl)amino]-3-pyridinecarboxylic acid (116.0 g, 93.3%), mp 197°-199° C. B. Stirring 2-[(3-chloro-phenyl)amino]-3-pyridinecarboxylic acid (30.8 g, 124 mmol) with SOCl2 (50 mL, 680 mmol) and DMF (0.5 mL) at 25° C. for 1 hr gave a solution which deposited a precipitate. Excess thionyl chloride was evaporated, the residue was mixed with benzene, and the solvent was evaporated to give crude, solid 2 -[(3-chlorophenyl)amino]-3-pyridinecarbonyl chloride which was used directly in the next step C. Collecting, washing with benzene and petroleum ether, and drying the precipitate gave 2-8 (3-chlorophenyl)amino]-3-pyridinecarbonyl chloride (32 g, 96%) as a yellow solid, mp 112°-115° C. C. A solution of N(C2H5)3 (1.3 mL, 9.3 mmol) and 1-(1-pyrrolidinyl)cyclohexene (1.41 g, 9.3 mmol) in toluene (5 mL) was added dropwise over 10 min. to a magnetically stirred, cooled (ice-acetone bath at -10° C.) suspension of crude acid chloride (prepared by the procedure of Step 26B above from 9.3 mmol of the corresponding acid) and toluene (40 mL). The solid dissolved, and the dark red reaction mixture was kept 2 hrs. between -5 to +5° C. and then warmed to room temperature over 0.5 hr. The reaction mixture was then heated in an oil bath for 4 hrs; the oil bath temperature was 80° C. The reaction mixture was allowed to cool and to stand at room temperature for 12 hrs., after which toluene was evaporated. The residue was dissolved in CH2Cl2 (100 mL) and the solution was washed with 100 mL portions of H2O, 1N HCl, 1M Na2CO3, and with H2O. Aqueous extracts were backextracted with CH2Cl2, and combined organic solutions were dried over Na2SO4, filtered, and evaporated. The residue was crystallized from acetonitrile to provide the desired product 10-(3-chlorophenyl)-6,8,9,10-tetrahydrobenzo[b][1,8]naphthyridin-5(7H)-one

reactant | 2-chloro-3-pyridinecarboxylic acid | 0.500 mol, 78.75 g | ClC1=NC=CC=C1C(=O)O | C6H4ClNO2
reactant | 3-chloroaniline | 1.00 mol, 127.6 g | ClC=1C=C(N)C=CC1 | C6H6ClN
solvent | H2O | 500 mL | O | H2O
solvent | H2O | 45 mmol, 8.5 g | O | H2O
product | 2-[(3-chlorophenyl)amino]-3-pyridinecarboxylic acid | 116.0 g, 93.3% | ClC=1C=C(C=CC1)NC1=NC=CC=C1C(=O)O | C12H9ClN2O2
